US07491720B2
(2) Synthesis of dimethyl 4-benzyloxypyridine-2,6-dicarboxylate
To a solution of 100 g of dimethyl 4-hydroxypyridine-2,6-dicarboxylate hydrochloride disloved in 500 ml of N,N-dimethylformamide, 122 g of potassium carbonate was added, and the mixture was stirred at room temperature for 1 hour. 52.5 ml of benzyl bromide was added to the resulting reaction mixture, and it was stirred at 50° C. overnight. The reaction mixture was poured into water; and then the resulting white solid was collected after filtration, washed with water, and dried in vacuo to afford the title compound.

reactant | dimethyl 4-hydroxypyridine-2,6-dicarboxylate hydrochloride | 100 g | Cl.OC1=CC(=NC(=C1)C(=O)OC)C(=O)OC
reactant | potassium carbonate | 122 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 52.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | dimethyl 4-benzyloxypyridine-2,6-dicarboxylate | C(C1=CC=CC=C1)OC1=CC(=NC(=C1)C(=O)OC)C(=O)OC | C16H15NO5
